*$ model description: "awbhgtd6n40e1"
*b Device model created by analog_uprev for hgtd6n40e1 on Wed Feb  7 11:38:21 IST 2001
.subckt awbhgtd6n40e1   1 2 3
+ params:
+ VTO=3.8685E+00
+ KP=5.6343E-01
+ LAMBDA=0.002
+ CGSO=155p
+ RG=54.23
+ RD=1.9737E+01m
+ RS=2.1602E-01
+ CJGD=2.173E-10
+ VJGD=4.774E+00
+ MJGD=2.278E+00
+ XJGD=0.52
+ LE=5n
+ RLE=100
+ RER=0.1m
+ IS=1n
+ BF=1
+ XTB=0
+ XTI=0
+ EG=0.75
+ NF=1.25
+ CJC=1.043e-10
+ VJC=1.709E+00
+ MJC=5.964E-01
+ CJE=1.25e-8
+ TF=0.695u
xinsthgtd6n40e1   1 2 3 model613     params:   vto={VTO}
+  kp={KP}
+  lambda={LAMBDA}
+  cgso={CGSO}
+  rg={RG}
+  rd={RD}
+  rs={RS}
+  cjgd={CJGD}
+  vjgd={VJGD}
+  mjgd={MJGD}
+  xjgd={XJGD}
+  le={LE}
+  rle={RLE}
+  rer={RER}
+  is={IS}
+  bf={BF}
+  xtb={XTB}
+  xti={XTI}
+  eg={EG}
+  nf={NF}
+  cjc={CJC}
+  vjc={VJC}
+  mjc={MJC}
+  cje={CJE}
+  tf={TF}
+ 
.ends  awbhgtd6n40e1
*$ end model description: "awbhgtd6n40e1"
*
*
*$ model description: "awbhgtd6n40e1s"
*b Device model created by analog_uprev for hgtd6n40e1s on Wed Feb  7 11:38:21 IST 2001
.subckt awbhgtd6n40e1s   1 2 3
+ params:
+ VTO=3.8685E+00
+ KP=5.6343E-01
+ LAMBDA=0.002
+ CGSO=155p
+ RG=54.23
+ RD=1.9737E+01m
+ RS=2.1602E-01
+ CJGD=2.173E-10
+ VJGD=4.774E+00
+ MJGD=2.278E+00
+ XJGD=0.52
+ LE=5n
+ RLE=100
+ RER=0.1m
+ IS=1n
+ BF=1
+ XTB=0
+ XTI=0
+ EG=0.75
+ NF=1.25
+ CJC=1.043e-10
+ VJC=1.709E+00
+ MJC=5.964E-01
+ CJE=1.25e-8
+ TF=0.695u
xinsthgtd6n40e1s   1 2 3 model613     params:   vto={VTO}
+  kp={KP}
+  lambda={LAMBDA}
+  cgso={CGSO}
+  rg={RG}
+  rd={RD}
+  rs={RS}
+  cjgd={CJGD}
+  vjgd={VJGD}
+  mjgd={MJGD}
+  xjgd={XJGD}
+  le={LE}
+  rle={RLE}
+  rer={RER}
+  is={IS}
+  bf={BF}
+  xtb={XTB}
+  xti={XTI}
+  eg={EG}
+  nf={NF}
+  cjc={CJC}
+  vjc={VJC}
+  mjc={MJC}
+  cje={CJE}
+  tf={TF}
+ 
.ends  awbhgtd6n40e1s
*$ end model description: "awbhgtd6n40e1s"
*
*
*$ model description: "awbhgtd6n50e1"
*b Device model created by analog_uprev for hgtd6n50e1 on Wed Feb  7 11:38:21 IST 2001
.subckt awbhgtd6n50e1   1 2 3
+ params:
+ VTO=3.8685E+00
+ KP=5.6343E-01
+ LAMBDA=0.002
+ CGSO=155p
+ RG=54.23
+ RD=1.9737E+01m
+ RS=2.1602E-01
+ CJGD=2.173E-10
+ VJGD=4.774E+00
+ MJGD=2.278E+00
+ XJGD=0.52
+ LE=5n
+ RLE=100
+ RER=0.1m
+ IS=1n
+ BF=1
+ XTB=0
+ XTI=0
+ EG=0.75
+ NF=1.25
+ CJC=1.043e-10
+ VJC=1.709E+00
+ MJC=5.964E-01
+ CJE=1.25e-8
+ TF=0.695u
xinsthgtd6n50e1   1 2 3 model613     params:   vto={VTO}
+  kp={KP}
+  lambda={LAMBDA}
+  cgso={CGSO}
+  rg={RG}
+  rd={RD}
+  rs={RS}
+  cjgd={CJGD}
+  vjgd={VJGD}
+  mjgd={MJGD}
+  xjgd={XJGD}
+  le={LE}
+  rle={RLE}
+  rer={RER}
+  is={IS}
+  bf={BF}
+  xtb={XTB}
+  xti={XTI}
+  eg={EG}
+  nf={NF}
+  cjc={CJC}
+  vjc={VJC}
+  mjc={MJC}
+  cje={CJE}
+  tf={TF}
+ 
.ends  awbhgtd6n50e1
*$ end model description: "awbhgtd6n50e1"
*
*
*$ model description: "awbhgtd6n50e1s"
*b Device model created by analog_uprev for hgtd6n50e1s on Wed Feb  7 11:38:21 IST 2001
.subckt awbhgtd6n50e1s   1 2 3
+ params:
+ VTO=3.8685E+00
+ KP=5.6343E-01
+ LAMBDA=0.002
+ CGSO=155p
+ RG=54.23
+ RD=1.9737E+01m
+ RS=2.1602E-01
+ CJGD=2.173E-10
+ VJGD=4.774E+00
+ MJGD=2.278E+00
+ XJGD=0.52
+ LE=5n
+ RLE=100
+ RER=0.1m
+ IS=1n
+ BF=1
+ XTB=0
+ XTI=0
+ EG=0.75
+ NF=1.25
+ CJC=1.043e-10
+ VJC=1.709E+00
+ MJC=5.964E-01
+ CJE=1.25e-8
+ TF=0.695u
xinsthgtd6n50e1s   1 2 3 model613     params:   vto={VTO}
+  kp={KP}
+  lambda={LAMBDA}
+  cgso={CGSO}
+  rg={RG}
+  rd={RD}
+  rs={RS}
+  cjgd={CJGD}
+  vjgd={VJGD}
+  mjgd={MJGD}
+  xjgd={XJGD}
+  le={LE}
+  rle={RLE}
+  rer={RER}
+  is={IS}
+  bf={BF}
+  xtb={XTB}
+  xti={XTI}
+  eg={EG}
+  nf={NF}
+  cjc={CJC}
+  vjc={VJC}
+  mjc={MJC}
+  cje={CJE}
+  tf={TF}
+ 
.ends  awbhgtd6n50e1s
*$ end model description: "awbhgtd6n50e1s"
*
*
*$ model description: "awbigt4d10"
*b Device model created by analog_uprev for igt4d10 on Wed Feb  7 11:38:21 IST 2001
.subckt awbigt4d10   1 2 3
+ params:
+ VTO=2.741E+00
+ KP=121.4m
+ LAMBDA=1E-10
+ CGSO=1.05n
+ RG=0.45
+ RD=0.236
+ RS=192.3m
+ CJGD=4.528E-10
+ VJGD=1.087E+00
+ MJGD=1.209E+00
+ XJGD=0.87
+ LE=12.5E-9
+ RLE=100
+ RER=1E-4
+ IS=1n
+ BF=9
+ XTB=0
+ XTI=0
+ CJC=7.541E-10
+ VJC=1.000E-01
+ MJC=1.478E-01
+ CJE=5E-8
+ TF=1.875E-07
xinstigt4d10   1 2 3 model613     params:   vto={VTO}
+  kp={KP}
+  lambda={LAMBDA}
+  cgso={CGSO}
+  rg={RG}
+  rd={RD}
+  rs={RS}
+  cjgd={CJGD}
+  vjgd={VJGD}
+  mjgd={MJGD}
+  xjgd={XJGD}
+  le={LE}
+  rle={RLE}
+  rer={RER}
+  is={IS}
+  bf={BF}
+  xtb={XTB}
+  xti={XTI}
+  cjc={CJC}
+  vjc={VJC}
+  mjc={MJC}
+  cje={CJE}
+  tf={TF}
+ 
.ends  awbigt4d10
*$ end model description: "awbigt4d10"
*
*
*$ model description: "awbigt4e10"
*b Device model created by analog_uprev for igt4e10 on Wed Feb  7 11:38:21 IST 2001
.subckt awbigt4e10   1 2 3
+ params:
+ VTO=2.741E+00
+ KP=121.4m
+ LAMBDA=1E-10
+ CGSO=1.05n
+ RG=0.45
+ RD=0.236
+ RS=192.3m
+ CJGD=4.528E-10
+ VJGD=1.087E+00
+ MJGD=1.209E+00
+ XJGD=0.87
+ LE=12.5E-9
+ RLE=100
+ RER=1E-4
+ IS=1n
+ BF=9
+ XTB=0
+ XTI=0
+ CJC=7.541E-10
+ VJC=1.000E-01
+ MJC=1.478E-01
+ CJE=5E-8
+ TF=1.875E-07
xinstigt4e10   1 2 3 model613     params:   vto={VTO}
+  kp={KP}
+  lambda={LAMBDA}
+  cgso={CGSO}
+  rg={RG}
+  rd={RD}
+  rs={RS}
+  cjgd={CJGD}
+  vjgd={VJGD}
+  mjgd={MJGD}
+  xjgd={XJGD}
+  le={LE}
+  rle={RLE}
+  rer={RER}
+  is={IS}
+  bf={BF}
+  xtb={XTB}
+  xti={XTI}
+  cjc={CJC}
+  vjc={VJC}
+  mjc={MJC}
+  cje={CJE}
+  tf={TF}
+ 
.ends  awbigt4e10
*$ end model description: "awbigt4e10"
*
*
*$ model description: "awbigt6d10"
*b Device model created by analog_uprev for igt6d10 on Wed Feb  7 11:38:21 IST 2001
.subckt awbigt6d10   1 2 3
+ params:
+ VTO=2.741E+00
+ KP=121.4m
+ LAMBDA=1E-10
+ CGSO=1.05n
+ RG=0.45
+ RD=0.236
+ RS=192.3m
+ CJGD=4.528E-10
+ VJGD=1.087E+00
+ MJGD=1.209E+00
+ XJGD=0.87
+ LE=12.5E-9
+ RLE=100
+ RER=1E-4
+ IS=1n
+ BF=9
+ XTB=0
+ XTI=0
+ CJC=7.541E-10
+ VJC=1.000E-01
+ MJC=1.478E-01
+ CJE=5E-8
+ TF=1.875E-07
xinstigt6d10   1 2 3 model613     params:   vto={VTO}
+  kp={KP}
+  lambda={LAMBDA}
+  cgso={CGSO}
+  rg={RG}
+  rd={RD}
+  rs={RS}
+  cjgd={CJGD}
+  vjgd={VJGD}
+  mjgd={MJGD}
+  xjgd={XJGD}
+  le={LE}
+  rle={RLE}
+  rer={RER}
+  is={IS}
+  bf={BF}
+  xtb={XTB}
+  xti={XTI}
+  cjc={CJC}
+  vjc={VJC}
+  mjc={MJC}
+  cje={CJE}
+  tf={TF}
+ 
.ends  awbigt6d10
*$ end model description: "awbigt6d10"
*
*
*$ model description: "awbigt6e10"
*b Device model created by analog_uprev for igt6e10 on Wed Feb  7 11:38:21 IST 2001
.subckt awbigt6e10   1 2 3
+ params:
+ VTO=2.741E+00
+ KP=121.4m
+ LAMBDA=1E-10
+ CGSO=1.05n
+ RG=0.45
+ RD=0.236
+ RS=192.3m
+ CJGD=4.528E-10
+ VJGD=1.087E+00
+ MJGD=1.209E+00
+ XJGD=0.87
+ LE=12.5E-9
+ RLE=100
+ RER=1E-4
+ IS=1n
+ BF=9
+ XTB=0
+ XTI=0
+ CJC=7.541E-10
+ VJC=1.000E-01
+ MJC=1.478E-01
+ CJE=5E-8
+ TF=1.875E-07
xinstigt6e10   1 2 3 model613     params:   vto={VTO}
+  kp={KP}
+  lambda={LAMBDA}
+  cgso={CGSO}
+  rg={RG}
+  rd={RD}
+  rs={RS}
+  cjgd={CJGD}
+  vjgd={VJGD}
+  mjgd={MJGD}
+  xjgd={XJGD}
+  le={LE}
+  rle={RLE}
+  rer={RER}
+  is={IS}
+  bf={BF}
+  xtb={XTB}
+  xti={XTI}
+  cjc={CJC}
+  vjc={VJC}
+  mjc={MJC}
+  cje={CJE}
+  tf={TF}
+ 
.ends  awbigt6e10
*$ end model description: "awbigt6e10"
*
*
*$ model description: "awbirgbc30u"
*b Device model created by analog_uprev for irgbc30u on Wed Feb  7 11:38:21 IST 2001
.subckt awbirgbc30u   1 2 3
+ params:
+ VTO=4.22704
+ KP=0.0635277
+ LAMBDA=1e-06
+ CGSO=6.30024e-10
+ RG=0.2432
+ RD=0.471808
+ RS=2m
+ CJGD=6.13328e-10
+ VJGD=7.99666
+ MJGD=1.96587
+ XJGD=0.25
+ LE=4.5n
+ RLE=100
+ RER=0.000421742
+ IS=3.19466e-16
+ BF=31.5505
+ NF=1.13935
+ RB=2m
+ CJC=6.83081e-10
+ VJC=3.8623
+ MJC=0.85
+ CJE=6.83081e-09
+ VJE=50
+ MJE=0.2
+ TF=2e-09
xinstirgbc30u   1 2 3 model613     params:   vto={VTO}
+  kp={KP}
+  lambda={LAMBDA}
+  cgso={CGSO}
+  rg={RG}
+  rd={RD}
+  rs={RS}
+  cjgd={CJGD}
+  vjgd={VJGD}
+  mjgd={MJGD}
+  xjgd={XJGD}
+  le={LE}
+  rle={RLE}
+  rer={RER}
+  is={IS}
+  bf={BF}
+  nf={NF}
+  rb={RB}
+  cjc={CJC}
+  vjc={VJC}
+  mjc={MJC}
+  cje={CJE}
+  vje={VJE}
+  mje={MJE}
+  tf={TF}
+ 
.ends  awbirgbc30u
*$ end model description: "awbirgbc30u"
*
*
*$ model description: "awbbsm25gd100d"
*b Device model created by analog_uprev for bsm25gd100d on Wed Feb  7 12:17:34 IST 2001
.subckt awbbsm25gd100d   1 2 3 4
+ params:
+ VTO=6.0429
+ KP=936.597m
+ LAMBDA=1E-10
+ CGSO=4.0n
+ RG=15
+ RD=0.8104
+ RS=258.5128m
+ CJGD=2.083E-9
+ VJGD=0.1137
+ MJGD=0.5219
+ XJGD=0.965
+ LE=5n
+ RLE=100
+ RER=0.1m
+ IS=1n
+ BF=9
+ NF=1.5
+ RB=0.1
+ CJC=6.075e-10
+ VJC=1.6
+ MJC=0.4
+ CJE=2e-7
+ TF=0.96e-8
xinstbsm25gd100d   1 2 3 4 model614     params:   vto={VTO}
+  kp={KP}
+  lambda={LAMBDA}
+  cgso={CGSO}
+  rg={RG}
+  rd={RD}
+  rs={RS}
+  cjgd={CJGD}
+  vjgd={VJGD}
+  mjgd={MJGD}
+  xjgd={XJGD}
+  le={LE}
+  rle={RLE}
+  rer={RER}
+  is={IS}
+  bf={BF}
+  nf={NF}
+  rb={RB}
+  cjc={CJC}
+  vjc={VJC}
+  mjc={MJC}
+  cje={CJE}
+  tf={TF}
+ 
.ends  awbbsm25gd100d
*$ end model description: "awbbsm25gd100d"
*
*