*$ model description: "awbne67383"
*b Device model created by analog_uprev for ne67383 on Mon Feb 12 11:15:23 IST 2001
.subckt awbne67383 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ STATE_FACTOR=0
+ VTO=-1
+ BETA=0.032
+ ALPHA=3
+ LAMBDA=0.1789
+ RD=3
+ RS=0.11
+ IS=1e-6
+ MODE=1
Bne67383_0 D G S model63  ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model63 GASFET cgd=1.0E-18 cgs=1.0E-18
+  vto={VTO}
+  beta={BETA}
+  alpha={ALPHA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  is={IS}
+ 
.ends  awbne67383
*$ end model description: "awbne67383"
*
*
*$ model description: "awbidealpmes"
*b Device model created by analog_uprev for idealpmes on Mon Feb 12 11:09:13 IST 2001
.subckt awbidealpmes D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ STATE_FACTOR=0
+ VTO=-2
+ MODE=1
Bidealpmes_0 D G S model65  ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model65 GASFET cgd=1.0E-18 cgs=1.0E-18
+  vto={VTO}
+ 
.ends  awbidealpmes
*$ end model description: "awbidealpmes"
*
*
*$ model description: "awb2n6027"
*a Device model created by analog_uprev for 2n6027 on Mon Feb 12 11:24:52 IST 2001
.subckt awb2n6027   1 3 4
dd10 7 4 m1m2n6027_d1 1
.model m1m2n6027_d1 d cjo=10.000000p is=10.000000f
rr8 4 2 44.000000g tc=0 0
rr2 4 1 10.300000g tc=0 0
rr5 10 3 400.000000m tc=0 0
qq5 2 1 10  m2m2n6027_pnpx 1 off
.model m2m2n6027_pnpx pnp cjc=950.000000p cje=500.000000p ne=1.8 ise=
+ 37.000000p vaf=30 is=10.000000f bf=40
qq6 1 2 4  m3m2n6027_npnx 1 off
.model m3m2n6027_npnx npn xtb=5 cjc=950.000000p cje=500.000000p ne=
+ 1.8 ise=37.000000p vaf=30 is=10.000000f bf=40
rr7 7 10 20.000000meg tc=12.000000m 0
rr9 1 10 44.000000g tc=0 0
.ends
*$ end model description: "awb2n6027"
*
*
*$ model description: "awbv22za1"
*b Device model created by analog_uprev for v22za1 on Tue Feb  6 03:38:11 IST 2001
.subckt awbv22za1   21 26
+ params:
+ I1=1m
+ V1=22
+ I2=5
+ V2=47
+ CN=1600p
+ RON=138m
xinstv22za1   21 26 model334     params:   i1={I1}
+  v1={V1}
+  i2={I2}
+  v2={V2}
+  cn={CN}
+  ron={RON}
+ 
.ends  awbv22za1
*$ end model description: "awbv22za1"
*
*
*$ model description: "awbv22za2"
*b Device model created by analog_uprev for v22za2 on Tue Feb  6 03:38:11 IST 2001
.subckt awbv22za2   21 26
+ params:
+ I1=1m
+ V1=22
+ I2=5
+ V2=43
+ CN=4000p
+ RON=70m
xinstv22za2   21 26 model334     params:   i1={I1}
+  v1={V1}
+  i2={I2}
+  v2={V2}
+  cn={CN}
+  ron={RON}
+ 
.ends  awbv22za2
*$ end model description: "awbv22za2"
*
*
*$ model description: "awbv22za3"
*b Device model created by analog_uprev for v22za3 on Tue Feb  6 03:38:11 IST 2001
.subckt awbv22za3   21 26
+ params:
+ I1=1m
+ V1=22
+ I2=10
+ V2=43
+ CN=9000p
+ RON=49m
xinstv22za3   21 26 model334     params:   i1={I1}
+  v1={V1}
+  i2={I2}
+  v2={V2}
+  cn={CN}
+  ron={RON}
+ 
.ends  awbv22za3
*$ end model description: "awbv22za3"
*
*
*$ model description: "awbv36za80"
*b Device model created by analog_uprev for v36za80 on Tue Feb  6 03:38:11 IST 2001
.subckt awbv36za80   21 26
+ params:
+ I1=10m
+ V1=36
+ I2=20
+ V2=63
+ CN=12n
+ RON=30m
xinstv36za80   21 26 model334     params:   i1={I1}
+  v1={V1}
+  i2={I2}
+  v2={V2}
+  cn={CN}
+  ron={RON}
+ 
.ends  awbv36za80
*$ end model description: "awbv36za80"
*
*